US06509328B1
To a mixture of the 4-iodo-2-nitroaniline (142 mmol) and cesium carbonate (55.5 g, 170 mmol) in 2-butanone (740 mL) was dropwise added a solution of Boc2O (37.8 g, 173 mmol) in 2-butanone (170 mL) and the resulting mixture was stirred at 52° C. for 26 h. The solvent was removed in vacuum, the residue was treated with a mixture of H2O (240 mL) and MeOH (240 mL) and extracted with hexane (3×500 mL). The combined hexane layer was washed with brine (200 mL) and all aqueous layers were reextracted with hexane (300 mL). All combined hexane layers were dried over MgSO4, filtered and the solvent was removed in vacuum to give an orange solid, which was purified by silica gel column chromatography with hexane/EtOAc to give the (4-iodo-2-nitro-phenyl)-carbamic acid tert.-butyl ester as a yellow solid.

reactant | 4-iodo-2-nitroaniline | 142 mmol | IC1=CC(=C(N)C=C1)[N+](=O)[O-] | C6H5IN2O2
reactant | cesium carbonate | 170 mmol, 55.5 g | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | Boc2O | 173 mmol, 37.8 g | CC(C)(C)OC(=O)OC(=O)OC(C)(C)C | C10H18O5
solvent | 2-butanone | 740 mL | CC(CC)=O | C4H8O
solvent | 2-butanone | 170 mL | CC(CC)=O | C4H8O
product | (4-iodo-2-nitro-phenyl)-carbamic acid tert.-butyl ester | C(C)(C)(C)OC(NC1=C(C=C(C=C1)I)[N+](=O)[O-])=O | C11H13IN2O4
